US08067450B2
Step 2: Preparation of 5-[4-(2-hydroxy-2-phenylethoxy)benzylidene]-1,3-thiazolidine-2,4-dione
To a stirring solution of 4-[(2S)-2-hydroxy-2-phenylethoxy]benzaldehyde (2.63 g, 10.8 mmol) in absolute EtOH (75 ml) was added 2,4-thiazolidinedione (1.27 g, 10.8 mmol) and piperidine (0.54 mL, 5.4 mmol), and the resulting solution was heated to reflux. The reaction was refluxed overnight. The reaction mixture was allowed to cool to RT. No precipitate formed. The pH of reaction mixture was ca. 5. Acetic acid (20 drops) was added. The reaction was evaporated in vacuo. The material was adsorbed onto silica gel and chromatographed eluting with 30-40% EtOAc/hexanes. Fractions containing product were combined and evaporated in vacuo to give 3.18 g (86%) of the title compound as a light yellow solid. MS (ESI−) for C18H15NO4S m/z 340.1 (M−H)−.

reactant | 4-[(2S)-2-hydroxy-2-phenylethoxy]benzaldehyde | 10.8 mmol, 2.63 g | O[C@H](COC1=CC=C(C=O)C=C1)C1=CC=CC=C1 | C15H14O3
reactant | 2,4-thiazolidinedione | 10.8 mmol, 1.27 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | piperidine | 5.4 mmol, 0.54 mL | N1CCCCC1 | C5H11N
solvent | EtOH | 75 ml | CCO | C2H6O
catalyst | Acetic acid | 20 drops | C(C)(=O)O | C2H4O2
product | 5-[4-(2-hydroxy-2-phenylethoxy)benzylidene]-1,3-thiazolidine-2,4-dione | 3.18 g, 86% | OC(COC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1)C1=CC=CC=C1 | C18H15NO4S
